US08541411B2
Preparation of 2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole-4-carbonitrile
A mixture of 4-bromo-2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole (prepared following the same procedure as for Example 19, 300 mg, 0.69 mmol), Pd(PPh3)4 (80 mg, 0.069 mmol) and Zn(CN)2 (162 mg, 1.38 mmol) in DMF (30 mL) was stirred at 80° C. under N2 for 18 h. After cooling to rt, the mixture was poured into water and filtered. The filter cake was purified by silica gel chromatography eluted with petroleum ether:EtOAc=1:1 to give the product (180 mg, 68%), as a white solid. 1H NMR (300 MHz, DMSO-d6): δ 2.44 (s, 3H), 3.07 (t, 4H, J=4.5 Hz), 3.68 (t, 4H, J=4.5 Hz), 6.04 (s, 2H), 6.32 (d, 1H, J=7.2 Hz), 7.31-7.40 (m, 3H), 7.60-7.71 (m, 2H), 7.86 (d, 1H, J=8.4 Hz), 8.01 (d, 1H, J=7.2 Hz), 8.22 (d, 1H, J=8.4 Hz); LC-MS: m/e=383 [M+1]+

reactant | 4-bromo-2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole | BrC1=CC(=CC=2N(C(=NC21)C)CC2=CC=CC1=CC=CC=C21)N2CCOCC2 | C23H22BrN3O
reactant | water | O | H2O
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.069 mmol, 80 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Zn(CN)2 | 1.38 mmol, 162 mg | [C-]#N.[C-]#N.[Zn+2]
product | 2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole-4-carbonitrile | 180 mg, 68% | CC1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C=C2C#N)N2CCOCC2 | C24H22N4O
